US03976684
To a flask equipped with a stirrer, dropping funnel, condenser and gas inlet tube maintained under a nitrogen atmosphere, there is added 50 g (0.89) moles of potassium hydroxide in one liter of 2-methoxyethanol. Stirring is initiated and 100 g(0.79mole) of anhydrous phloroglucinol is added in three portions, followed by the addition of 100 g (0.80 mole) of 1-acetyl-cyclohexene while maintaining the temperature at 50°C. The resulting solution is refluxed at 140°C for 4 hours. After cooling there is then added gradually 53.6 g. of acetic acid while obtaining a pH of approximately 7. The solvent is then removed in vacuo, and the residue is further heated in vacuo in a bath at 70°C, to obtain a viscous residue. The resulting residue is dissolved in ethyl acetate and water; washed twice with water, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to obtain a brown solid. The resulting solid is recrystallized from ethyl acetate/cyclohexane to give 2,4-dihydroxy-4b,5,6,7,8,8a,9,10-octahydro-9 -oxo-phenanthrene. m.p. 220°-223°C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | phloroglucinol | 0.79mole, 100 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | 1-acetyl-cyclohexene | 0.80 mole, 100 g | C(C)(=O)C1=CCCCC1 | C8H12O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | 2-methoxyethanol | one liter | COCCO | C3H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2,4-dihydroxy-4b,5,6,7,8,8a,9,10-octahydro-9 -oxo-phenanthrene | OC1=CC=2CC(C3CCCCC3C2C(=C1)O)=O | C14H16O3
